US08623889B2
Step 2: 2-chloro-5-((2-chlorophenyl)ethynyl)isonicotinaldehyde
A mixture of 5-bromo-2-chloroisonicotinaldehyde (1.0 g, 4.5 mmol), 1-chloro-2-ethynylbenzene (650 mg, 4.7 mmol), N,N-diisopropylethylamine (1.6 mL, 9.1 mmol), copper(I) iodide (43 mg, 0.23 mmol), and bis(triphenylphosphine)palladium(II) chloride (159 mg, 0.23 mmol) in 1,4-dioxane (21 mL) was heated at 50° C. for 1 hour. The cooled reaction mixture was diluted with ethyl acetate (100 mL) and washed with water (100 mL). The organic layer was separated, dried over sodium sulfate, filtered, and evaporated in vacuo to afford a residue that was purified by flash chromatography (silica, 40 g, ISCO, 0-30% ethyl acetate in heptane) to afford the title compound as an off-white solid (1.1 g, 88%). 1H NMR (400 MHz, CDCl3) δ 10.64 (s, 1H), 8.77 (s, 1H), 7.77 (s, 1H), 7.62 (dd, J=7.5, 1.7 Hz, 1H), 7.49 (d, J=7.9 Hz, 1H), 7.38 (td, J=7.8, 1.8 Hz, 1H), 7.32 (td, J=7.5, 1.2 Hz, 1H).

reactant | 5-bromo-2-chloroisonicotinaldehyde | 4.5 mmol, 1.0 g | BrC1=CN=C(C=C1C=O)Cl | C6H3BrClNO
reactant | 1-chloro-2-ethynylbenzene | 4.7 mmol, 650 mg | ClC1=C(C=CC=C1)C#C | C8H5Cl
reactant | N,N-diisopropylethylamine | 9.1 mmol, 1.6 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | 1,4-dioxane | 21 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | copper(I) iodide | 0.23 mmol, 43 mg | [Cu]I
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.23 mmol, 159 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-chloro-5-((2-chlorophenyl)ethynyl)isonicotinaldehyde | 1.1 g, 88% | ClC=1C=C(C=O)C(=CN1)C#CC1=C(C=CC=C1)Cl | C14H7Cl2NO
